US07968563B2
Methoxylamine hydrochloride (0.659 g, 7.90 mmol) was added to a stirred suspension of 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde (1.00 g, 3.95 mmol) in methanol (10 mL), and the reaction was stirred at room temperature overnight. The methanol was removed under reduced pressure, and the residue was diluted with saturated aqueous sodium bicarbonate (50 mL). The resulting mixture was extracted with dichloromethane (3×30 mL), and the combined extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 1.16 g of 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde O-methyloxime as a pale yellow oil that solidified upon standing.

reactant | Methoxylamine hydrochloride | 7.90 mmol, 0.659 g | Cl.O(C)N
reactant | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde | 3.95 mmol, 1.00 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)C=O)C | C15H15N3O
solvent | methanol | 10 mL | CO | CH4O
product | 1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline-2-carbaldehyde O-methyloxime | 1.16 g | CON=CC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C16H18N4O
